US08044068B2
3,6-Dimethylpyridine-2,4-diol (1.0 g) was suspended in chloroform (15 mL), followed by addition of triethylamine (3.2 mL) and trifluoromethanesulfonic acid anhydride (2.8 mL) with ice cooling, and then the mixture was stirred for 1.5 h. The reaction mixture was poured into saturated aqueous sodium hydrogencarbonate, the mixture was extracted with chloroform, the organic layer was dried with anhydrous magnesium sulfate, then the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and then the residue was purified by silica gel column chromatography (hexane/ethyl acetate=84:16) to obtain 3,6-dimethyl-2,4-bistrifluoromethanesulfonyloxypyridine (2.6 g).

reactant | 3,6-Dimethylpyridine-2,4-diol | 1.0 g | CC=1C(=NC(=CC1O)C)O | C7H9NO2
reactant | triethylamine | 3.2 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 2.8 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 3,6-dimethyl-2,4-bistrifluoromethanesulfonyloxypyridine | 2.6 g | CC=1C(=NC(=CC1OS(=O)(=O)C(F)(F)F)C)OS(=O)(=O)C(F)(F)F | C9H7F6NO6S2
